US08455479B2
Sodium hydride (80.0 mg, 2.0 mmol; 60% suspension in mineral oil) was washed with hexane (2 mL) in a flame dried round bottomed flask under nitrogen atmosphere. To the resulting free floating powder, was added a solution of (2-azido-benzyl)-carbamic acid tert-butyl ester (250 mg, 1.0 mmol) in dry DMF (3 mL) dropwise at 0° C. under nitrogen atmosphere. The reaction mixture was stirred at this temperature for 30 min followed by dropwise addition of a solution of 1-(3-bromo-prop-1-ynyl)-4-fluoro-benzene (318.0 mg, 1.50 mmol) in dry DMF (1.5 mL). The reaction mixture was stirred at r.t. for 2 h. After the completion of the reaction as confirmed by TLC, the crude compound was extracted with ethylacetate (2×10 mL). The combined organic layer was washed with water (2×10 mL). Organic layer was separated, dried over Na2SO4 and concentrated in vacuo to afford the crude compound which was purified by column chromatography (silica gel, 1:9 EtOAc:Pet.Ether) to afford 3-(4-fluoro-phenyl)-4H,6H-1,2,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester (70 mg, 12.2%) as a viscous oil.

reactant | Sodium hydride | 2.0 mmol, 80.0 mg | [H-].[Na+]
reactant | (2-azido-benzyl)-carbamic acid tert-butyl ester | 1.0 mmol, 250 mg | C(C)(C)(C)OC(NCC1=C(C=CC=C1)N=[N+]=[N-])=O | C12H16N4O2
reactant | 1-(3-bromo-prop-1-ynyl)-4-fluoro-benzene | 1.50 mmol, 318.0 mg | BrCC#CC1=CC=C(C=C1)F | C9H6BrF
solvent | hexane | 2 mL | CCCCCC | C6H14
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 3-(4-fluoro-phenyl)-4H,6H-1,2,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester | 70 mg, 12.2% | C(C)(C)(C)OC(=O)N1CC2=C(N3N=NC(=C3C1)C1=CC=C(C=C1)F)C=CC=C2 | C21H21FN4O2
